US08283378B2
Similarly to Example 1(c), by reaction of 168 mg (0.6 mmol) of C-(2-benzenesulfonyl-indan-2-yl)-methylamine with 131 mg (0.64 mmol) of 2-isocyanato-1,3-diisopropyl-benzene. 106 mg of 1-(2-benzenesulfonyl-indan-2-ylmethyl)-3-(2,6-diisopropyl-phenyl)-urea is obtained in the form of a white solid. (Yield=36%).

reactant | C-(2-benzenesulfonyl-indan-2-yl)-methylamine | 0.6 mmol, 168 mg | C1(=CC=CC=C1)S(=O)(=O)C1(CC2=CC=CC=C2C1)CN | C16H17NO2S
reactant | 2-isocyanato-1,3-diisopropyl-benzene | 0.64 mmol, 131 mg | N(=C=O)C1=C(C=CC=C1C(C)C)C(C)C | C13H17NO
product | 1-(2-benzenesulfonyl-indan-2-ylmethyl)-3-(2,6-diisopropyl-phenyl)-urea | 106 mg, Yield=36% | C1(=CC=CC=C1)S(=O)(=O)C1(CC2=CC=CC=C2C1)CNC(=O)NC1=C(C=CC=C1C(C)C)C(C)C | C29H34N2O3S
